US05750531
Step 5: 2-(2-Methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.40 ml, 3.60 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chlorocyclopenta[d]pyrimidine (0.50 g, 1.70 mmol) and dimethylformamide(5 ml), 0.15 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 3.60 mmol, 0.40 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chlorocyclopenta[d]pyrimidine | 1.70 mmol, 0.50 g | CC1N(CCC2=CC=CC=C12)C1=C2C(NC(=N1)Cl)=CC=C2 | C17H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-Methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride | 0.15 g, Yield: 20.8% | Cl.CC1=C(C=CC(=C1)F)NC1=NC(=C2C(N1)=CC=C2)N2C(C1=CC=CC=C1CC2)C | InChI=1S/C24H23FN4.ClH/c1-15-14-18(25)10-11-21(15)26-24-27-22-9-5-8-20(22)23(28-24)29-13-12-17-6-3-4-7-19(17)16(29)2;/h3-11,14,16H,12-13H2,1-2H3,(H2,26,27,28);1H
